US04600788
8 cc of chloroacetyl chloride are added, with stirring, to a mixture consisting of 9.5 g of methyl 7-amino-3-propyl-4'-flavonecarboxylate made according to Example 7a, 1 liter of benzene and 9 g of anhydrous K2CO3. The mixture is heated to reflux of the benzene for 2 hours, then cooled. The benzene phase is washed with water. A precipitate is formed which is filtered and dissolved in chloroform. The benzene and chloroform phases are evaporated. Methyl 7-(2-chloracetamido)-3-propyl-4'-flavonecarboxylate is obtained with a yield of 80%. MP=162° C.

reactant | chloroacetyl chloride | 8 cc | ClCC(=O)Cl | C2H2Cl2O
reactant | methyl 7-amino-3-propyl-4'-flavonecarboxylate | 9.5 g | NC1=CC=C2C(C(=C(OC2=C1)C1=CC=C(C=C1)C(=O)OC)CCC)=O | C20H19NO4
reactant | K2CO3 | 9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 1 liter | C1=CC=CC=C1 | C6H6
product | Methyl 7-(2-chloracetamido)-3-propyl-4'-flavonecarboxylate | yield of 80% | ClCC(=O)NC1=CC=C2C(C(=C(OC2=C1)C1=CC=C(C=C1)C(=O)OC)CCC)=O | C22H20ClNO5
